US08217028B2
To a solution of ethyl 1-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-4-piperidinecarboxylate (D74) (280 mg) in tetrahydrofuran (10 mL) and methanol (10 mL) stirred at 20° C. was added a solution of sodium hydroxide (54 mg) in water (10 mL) in one charge. The reaction mixture was stirred at 20° C. for 8 hours. The reaction mixture was concentrated and then H2SO4 (0.1 M) solution was added dropwise until no further white precipitate was formed. The solid was filtered and dried to afford 1-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-4-piperidinecarboxylic acid (E48) (98 mg). δH (DMSO-d6, 400 MHz): 1.38 (6H, d), 1.61-3.02 (9H, m), 3.95 (2H, s), 4.87-4.93 (1H, m), 7.26 (1H, t), 7.45-7.47 (2H, m), 7.96 (1H, s), 7.96 (1H, s), 8.21 (1H, dd), 8.37 (1H, d), 11.07 (1H, s). MS (ES): C26H27ClN4O4 requires 494; found 495.2 (M+H+).

reactant | ethyl 1-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-4-piperidinecarboxylate | 280 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CN1CCC(CC1)C(=O)OCC | C28H31ClN4O4
reactant | sodium hydroxide | 54 mg | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 1-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-4-piperidinecarboxylic acid | 98 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CN1CCC(CC1)C(=O)O | C26H27ClN4O4
